US06313295B1
Preparation of 3-Isopropyl-6-(trifluoromethyl)-2,4-(1H,3H)-pyrimidinedione
A stirred mixture of ethyl 3-[(ethoxycarbonyl)amino]-4,4,4-trifluorocrotonate, (Z)-(2.04 g, 8 mmol), isopropylamine (0.567 g, 9.6 mmol), and 1,8-diazabi-cyclo[5,4,0]undec-7-ene (DBU, 1.46 g, 9.6 mmol) in xylene (15 mL) is heated at 100° C. for 3 hours, cooled, and diluted with ethyl acetate. Water is added, and the resultant aqueous mixture is extracted with ethyl acetate. The organic extracts are combined, washed sequentially with water and aqueous 2 N hydrochloric acid, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo to obtain a solid. The solid is crystallized from methanol/water to give the title product as a solid (1.08 g, 61% yield) which is identified by 1H and 19F NMR spectral analyses.

reactant | ethyl 3-[(ethoxycarbonyl)amino]-4,4,4-trifluorocrotonate | C(C)OC(=O)N\C(=C/C(=O)OCC)\C(F)(F)F | C9H12F3NO4
reactant | isopropylamine | 9.6 mmol, 0.567 g | C(C)(C)N | C3H9N
reactant | Water | O | H2O
solvent | xylene | 15 mL | C=1(C(=CC=CC1)C)C | C8H10
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Isopropyl-6-(trifluoromethyl)-2,4-(1H,3H)-pyrimidinedione | 1.08 g, 61% yield | C(C)(C)N1C(NC(=CC1=O)C(F)(F)F)=O | C8H9F3N2O2
